US06951875B2
a) trans-2-Methyl-4-styryl-pyridine 1-oxide
Following the general method described in example 2a, 2,4-dimethylpyridine 1-oxide was reacted with potassium tert.-butanolate and benzaldehyde. After extraction and chromatography (SiO2 with CH2Cl2/MeOH=97/3) the title compound was obtained as a yellow solid material (yield 7%)). NMR (250 MHz, DMSO): 2.37 (s, 3H, CH3), 7.20 (d, J=16.5 Hz, 1H, CH═CH), 7.25-7.75 (m, 8H, arom-H, CH═CH), 8.22 (d, J=6.8 Hz, 1H, arom-H).

reactant | 2,4-dimethylpyridine 1-oxide | CC1=[N+](C=CC(=C1)C)[O-] | C7H9NO
reactant | potassium tert.-butanolate | C(C)(C)(C)[O-].[K+]
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | trans-2-Methyl-4-styryl-pyridine 1-oxide | yield 7% | CC1=[N+](C=CC(=C1)\C=C\C1=CC=CC=C1)[O-] | C14H13NO
